US05698692
The solution of 5-hydroxy-2-hydroxymethylpyridine (5.0 g) in DMF (10 ml) was titrated under ice-cooling in the suspension of sodium hydride (60% purity, 1.6 g) in DMF (10 ml). After 10 minutes, the mixture was heated to room temperature and stirred for 15 minutes. After t-butyl bromoacetate (6 ml) was added to the mixture under ice-cooling, the resulting mixture was stirred under ice-cooling for 10 minutes and at room temperature for 45 minutes. The reaction mixture was diluted with ethyl acetate, washed with water and brine and dried over anhydrous magnesium sulfate. After the solvents were removed by distillation, the residue was purified by column chromatography on silica gel with an eluent system of chloroform→chloroform:methanol=50:1 to give 8.16 g of 5-(t-butoxycarbonylmethyl)oxy-2-hydroxymethylpyridine (yield, 85%).

reactant | 5-hydroxy-2-hydroxymethylpyridine | 5.0 g | OC=1C=CC(=NC1)CO | C6H7NO2
reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | t-butyl bromoacetate | 6 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(t-butoxycarbonylmethyl)oxy-2-hydroxymethylpyridine | 8.16 g, 85% | C(C)(C)(C)OC(=O)COC=1C=CC(=NC1)CO | C12H17NO4
